US04705853
2-[(1-Methyl-3-pyrrolidinyl)oxy]-5-phenyl-3-pyridinecarboxylic acid chloride
The crude salt: sodium-2-[(1-methyl-3-pyrrolidinyl)oxy]-5-phenyl-3-pyridinecarboxylate (96 g) prepared in Preparation 55 was mixed with about 400 ml of thionyl chloride and stirred at room temperature for 10 minutes. The unreacted thionyl chloride was evaporated off at 70° C. and the residue was azeotroped with toluene to give the title compound which was used to prepare 2-(2-chloroethyl)-2,3-dihydro-4-methyl-7-phenylpyrido[3,2-f]-1,4-oxazepin-5-(4H)-one midway in preparation of Intermediate 79.

reactant | sodium 2-[(1-methyl-3-pyrrolidinyl)oxy]-5-phenyl-3-pyridinecarboxylate | 96 g | [Na].CN1CC(CC1)OC1=NC=C(C=C1C(=O)[O-])C1=CC=CC=C1
reactant | thionyl chloride | about 400 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-[(1-Methyl-3-pyrrolidinyl)oxy]-5-phenyl-3-pyridinecarboxylic acid chloride | CN1CC(CC1)OC1=NC=C(C=C1C(=O)Cl)C1=CC=CC=C1 | C17H17ClN2O2
